US08114872B2
N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-4-(7-(5-(2-aminoethoxy)-2-fluoropyridin-4-yl)benzo[b]thiophen-2-yl)-5-fluoropyrimidin-2-amine
Add hydrazine (0.03 mL, 0.8 mmol) to a solution of 2-(2-(4-(2-(2-(2-(1H-1,2,3-triazol-1-yl)ethylamino)-5-fluoropyrimidin-4-yl)benzo[b]thiophen-7-yl)-6-fluoropyridin-3-yloxy)ethyl)isoindoline-1,3-dione (0.25 g, 0.4 mmol) in ethanol (5 mL). Stir the mixture at 40° C. overnight. Remove the solvent and purify the residue by column chromatography (10% methanol in DCM) to afford the title compound (70 mg, 35%). MS (ES) m/z 495 [M+1]+.

reactant | hydrazine | 0.8 mmol, 0.03 mL | NN | H4N2
reactant | 2-(2-(4-(2-(2-(2-(1H-1,2,3-triazol-1-yl)ethylamino)-5-fluoropyrimidin-4-yl)benzo[b]thiophen-7-yl)-6-fluoropyridin-3-yloxy)ethyl)isoindoline-1,3-dione | 0.4 mmol, 0.25 g | N1(N=NC=C1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)C2=C(C=NC(=C2)F)OCCN2C(C1=CC=CC=C1C2=O)=O)F | C31H22F2N8O3S
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-4-(7-(5-(2-aminoethoxy)-2-fluoropyridin-4-yl)benzo[b]thiophen-2-yl)-5-fluoropyrimidin-2-amine | 70 mg, 35% | N1(N=NC=C1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)C2=CC(=NC=C2OCCN)F)F | C23H20F2N8OS
